US06359168B1
This solution of bromoacetate is added dropwise to the prepared solution of benzyloxyethanolate anion, and the mixture is heated at reflux for 19 h. The reaction is stopped with 5% KHSO4. 250 ml ethyl acetate is added and the organic phase is extracted three times with the aid of 5% NaOH. The pH of the alkaline phase is reduced to 1 with 10% HCl and extraction is performed twice with EtOAc. The organic phase is washed three times with sodium chloride solution, dried on Na2SO4, and evaporated to obtain 6.4 g (93%) 7-phenyl-3,6-dioxaheptanoic acid in the form of a colourless liquid.

reactant | bromoacetate | BrCC(=O)[O-]
reactant | benzyloxyethanolate | C(C1=CC=CC=C1)OC(C)[O-]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 7-phenyl-3,6-dioxaheptanoic acid | 6.4 g, 93% | C1(=CC=CC=C1)COCCOCC(=O)O | C11H14O4
